US05407950
1-[3-(Indan-2-ylacetyl)-L-thioprolyl]-L-prolinal (372 mg), hydroxylamine hydrochloride salt (76 mg) and pyridine (89 μl) were dissolved in 5 ml of dimethylformamide, and stirred at 70° C. for 1.5 hours. After concentrating the reaction solution under reduced pressure, the resulting residue was dissolved in 30 ml of methylene chloride, washed by saturated aqueous sodium chloride solution, and dried over magnesium sulfate, followed by distillation of the solvent under reduced pressure. The resulting residue was purified by column chromatography to obtain 120 mg of (2S)-1-[3-(indan-2-ylacetyl)-L-thioprolyl]-2-pyrrolidine aldoxime. Yield; 31%.

reactant | 1-[3-(Indan-2-ylacetyl)-L-thioprolyl]-L-prolinal | 372 mg | C1C(CC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)N1[C@H](C=O)CCC1 | C20H24N2O3S
reactant | hydroxylamine hydrochloride salt | 76 mg | Cl.NO
reactant | pyridine | 89 μl | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2S)-1-[3-(indan-2-ylacetyl)-L-thioprolyl]-2-pyrrolidine aldoxime | 120 mg, Yield; 31% | C1C(CC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)N1[C@@H](CCC1)C=NO | C20H25N3O3S
